US09388136B2
Stage 2—(3,5-Difluoro-4-nitrophenyl)acetic acid
Trifluoroacetic acid (150 mL) was added dropwise over 20 minutes to a cold (0° C.) solution of tert-butyl (3,5-difluoro-4-nitrophenyl)acetate (83.33 g, 305 mmol) in DCM (300 mL). On completion of the addition, the reaction mixture was allowed to warm to room temperature and stirred for 3 hours. The reaction mixture was concentrated under reduced pressure to leave a sticky brown solid. Trituration with heptanes afforded the title compound as a yellow solid (53.29 g, 67% yield over two steps).

reactant | Trifluoroacetic acid | 150 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl (3,5-difluoro-4-nitrophenyl)acetate | 305 mmol, 83.33 g | FC=1C=C(C=C(C1[N+](=O)[O-])F)CC(=O)OC(C)(C)C | C12H13F2NO4
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | 2—(3,5-Difluoro-4-nitrophenyl)acetic acid | 53.29 g, 67% yield | FC=1C=C(C=C(C1[N+](=O)[O-])F)CC(=O)O | C8H5F2NO4
